// TI ADC dynamic spectrum (M interleaved channels, Python mux post-process).
//
//   python scripts/run_ti_dynamic.py --spectre --output-dir outputs/spectre/ideal

simulator lang=spectre

ahdl_include "/home/yongfu/proj/ti-adc-model/.venv/src/adc-model/veriloga/configurable_adc.va"
ahdl_include "/home/yongfu/proj/ti-adc-model/veriloga/ti_channel_adc.va"
parameters bits=10
parameters vrefp=1
parameters vrefn=0.0
parameters enable_cal=0
parameters fs=1000000000
parameters num_channels=4
parameters num_samples=8192
parameters coherent_bin=997
parameters fin=coherent_bin*fs/num_samples
parameters amplitude=0.95*(vrefp-vrefn)/2
parameters vcm=0.5*(vrefp+vrefn)
parameters t_stop=num_samples/fs

parameters gain_0=0.985
parameters gain_1=0.995
parameters gain_2=1.005
parameters gain_3=1.015
parameters offset_v_0=-0.0075
parameters offset_v_1=-0.0025
parameters offset_v_2=0.0025
parameters offset_v_3=0.0075
parameters gain_cal_0=1
parameters gain_cal_1=1
parameters gain_cal_2=1
parameters gain_cal_3=1
parameters offset_cal_0=0.0
parameters offset_cal_1=0.0
parameters offset_cal_2=0.0
parameters offset_cal_3=0.0
parameters timing_skew_0=-7.5e-11
parameters timing_skew_1=-2.5e-11
parameters timing_skew_2=2.5e-11
parameters timing_skew_3=7.5e-11

parameters sigma_thermal=0.00025
parameters jitter_rms=5e-13
parameters nonlinearity_a2=0.0
parameters nonlinearity_a3=-0.002
parameters dnl_sigma_lsb=0.08
parameters noise_seed=1

VDD (vdd 0) vsource dc=1.0
VSS (vss 0) vsource dc=0.0

VSIN (vin 0) vsource type=sine \
    dc=vcm ampl=amplitude freq=fin

VCLK0 (clk0 0) vsource type=pulse val0=0 val1=1 period=4e-09 delay=-7.5e-11 rise=100p fall=100p width=2e-09
ADC0 (vin clk0 v_code0 vdd vss) ti_channel_adc BITS=10 VREFP=1.0 VREFN=0.0 GAIN=0.985 OFFSET_V=-0.0075 GAIN_CAL=1.0 OFFSET_CAL_V=0.0 ENABLE_CAL=0 SIGMA_THERMAL=0.00025 JITTER_RMS=5e-13 NONLINEARITY_A2=0.0 NONLINEARITY_A3=-0.002 DNL_SIGMA_LSB=0.08 NOISE_SEED=1
VCLK1 (clk1 0) vsource type=pulse val0=0 val1=1 period=4e-09 delay=9.75e-10 rise=100p fall=100p width=2e-09
ADC1 (vin clk1 v_code1 vdd vss) ti_channel_adc BITS=10 VREFP=1.0 VREFN=0.0 GAIN=0.995 OFFSET_V=-0.0025 GAIN_CAL=1.0 OFFSET_CAL_V=0.0 ENABLE_CAL=0 SIGMA_THERMAL=0.00025 JITTER_RMS=5e-13 NONLINEARITY_A2=0.0 NONLINEARITY_A3=-0.002 DNL_SIGMA_LSB=0.08 NOISE_SEED=2
VCLK2 (clk2 0) vsource type=pulse val0=0 val1=1 period=4e-09 delay=2.025e-09 rise=100p fall=100p width=2e-09
ADC2 (vin clk2 v_code2 vdd vss) ti_channel_adc BITS=10 VREFP=1.0 VREFN=0.0 GAIN=1.005 OFFSET_V=0.0025 GAIN_CAL=1.0 OFFSET_CAL_V=0.0 ENABLE_CAL=0 SIGMA_THERMAL=0.00025 JITTER_RMS=5e-13 NONLINEARITY_A2=0.0 NONLINEARITY_A3=-0.002 DNL_SIGMA_LSB=0.08 NOISE_SEED=3
VCLK3 (clk3 0) vsource type=pulse val0=0 val1=1 period=4e-09 delay=3.075e-09 rise=100p fall=100p width=2e-09
ADC3 (vin clk3 v_code3 vdd vss) ti_channel_adc BITS=10 VREFP=1.0 VREFN=0.0 GAIN=1.015 OFFSET_V=0.0075 GAIN_CAL=1.0 OFFSET_CAL_V=0.0 ENABLE_CAL=0 SIGMA_THERMAL=0.00025 JITTER_RMS=5e-13 NONLINEARITY_A2=0.0 NONLINEARITY_A3=-0.002 DNL_SIGMA_LSB=0.08 NOISE_SEED=4
VCLK_MUX (clk_mux 0) vsource type=pulse val0=0 val1=1 period=1e-09 rise=100p fall=100p width=5e-10

save vin clk_mux clk0 clk1 clk2 clk3 v_code0 v_code1 v_code2 v_code3
tran tran stop=t_stop maxstep=0.25/fs
